US06284755B1
Step C: Preparation of 2-Allyl-2-(-3-methoxy-phenyl)-4-methyl-morpholine-3-one
Following the procedure described by S. Pansare et al., J. Org. Chem. 1998, 63, 4120-4124, 2-hydroxy-2-(3-methoxy-phenyl)-4-methyl-morpholin-3-one, as described in Step C above, (0.133 g, 0.56 mmol) was dissolved in anhydrous CH2Cl2 (10 mL) under Ar, treated with allyltrimethylsilane (0.534 mL, 3.36 mmol), the mixture cooled to −23° C., then treated with TiCl4 (0.37 mL, 3.36 mmol). After 15 min the reaction mixture was quenched slowly with saturated aqueous NH4Cl solution, left to warm to room temperature, and partitioned between CH2Cl2 and H2O. The aqueous layer was washed with CH2Cl2, the organic layers combined, dried (Na2SO4), filtered and concentrated to dryness to give the title compound after chromatography (SiO2, 0-1% MeOH in CH2Cl2).

reactant | 2-hydroxy-2-(3-methoxy-phenyl)-4-methyl-morpholin-3-one | OC1(C(N(CCO1)C)=O)C1=CC(=CC=C1)OC | C12H15NO4
reactant | allyltrimethylsilane | 3.36 mmol, 0.534 mL | C(C=C)[Si](C)(C)C | C6H14Si
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | TiCl4 | 3.36 mmol, 0.37 mL | Cl[Ti](Cl)(Cl)Cl
product | 2-Allyl-2-(-3-methoxy-phenyl)-4-methyl-morpholine-3-one | C(C=C)C1(C(N(CCO1)C)=O)C1=CC(=CC=C1)OC | C15H19NO3
